US07714009B2
3-Methyl-1,3-dihydroimidazo[4,5-c]pyridin-2-one
To a solution of 2.80 g (22.7 mmol) of N3-methylpyridine-3,4-diamine in 125 mL of THF was added 4.42 g (27.3 mmol) of 1,1′-carbonyldiimidazole and the reaction was stirred overnight at room temperature. The reaction slurry was concentrated in vacuo to a volume of about 65 mL and cooled in a −10° C. bath, filtered, and the solids washed with 25 mL of THF. The solids were dried under high vacuum to give 2.35 g (69%) of the title compound.

reactant | N3-methylpyridine-3,4-diamine | 22.7 mmol, 2.80 g | CNC=1C=NC=CC1N | C6H9N3
reactant | 1,1′-carbonyldiimidazole | 27.3 mmol, 4.42 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 125 mL | C1CCOC1 | C4H8O
product | 3-Methyl-1,3-dihydroimidazo[4,5-c]pyridin-2-one | 2.35 g, 69% | CN1C(NC2=C1C=NC=C2)=O | C7H7N3O
